US08012974B2
Acetyl chloride (3.5 mL, 49.3 mmol) was added dropwise at 0° C. to 100 mL of MeOH. The resulting mixture was stirred at 0° C. for 5 minutes before adding (1S,3S)-3-tert-butoxycarbonylamino-cyclopentanecarboxylic acid methyl ester (1.192 g, 5.2 mmol). The reaction mixture was allowed to warm up to RT and stirred for 48 h before being evaporated to give crude (1S,3S)-3-amino-cyclopentanecarboxylic acid methyl ester hydrochloride which was used as is in the following step.

reactant | Acetyl chloride | 49.3 mmol, 3.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | (1S,3S)-3-tert-butoxycarbonylamino-cyclopentanecarboxylic acid methyl ester | 5.2 mmol, 1.192 g | COC(=O)[C@@H]1C[C@H](CC1)NC(=O)OC(C)(C)C | C12H21NO4
solvent | MeOH | CO | CH4O
product | (1S,3S)-3-amino-cyclopentanecarboxylic acid methyl ester hydrochloride | Cl.COC(=O)[C@@H]1C[C@H](CC1)N | InChI=1S/C7H13NO2.ClH/c1-10-7(9)5-2-3-6(8)4-5;/h5-6H,2-4,8H2,1H3;1H/t5-,6-;/m0./s1
